US04794108
In 50 ml of ethanol is dissolved 13.1 g (69.7 mmole), of diethyl (2R,3R)-epoxysuccinate, and a solution of 3.94 g of potassium hydroxide in 120 ml of ethanol is added dropwise to the solution under ice-cooling with stirring. After the stirring under ice-cooling for 3 hours, the ethanol is distilled off under reduced pressure. 50 ml of water and 100 ml of ether are added to the residue to a solution, and the aqueous layer is separated. The ether layer is extracted three times with dilute aqueous sodium chloride solution, and the aqueous layers are combined and acidified with 3N hydrochloric acid. The solution, after being saturated with sodium chloride, is extracted four times with ethyl acetate, and the extract is washed with aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure, and the residue is distilled under reduced pressure to give 4.76 g (42.7%) of (2R,3R)-epoxysuccinic acid monoethyl ester as a colorless oil having a boiling point of 121°-122° C. (0.85 mmHg). The product, upon standing, crystallizes, and the crystals are recrystallized from isopropyl ether-petroleum ether (1:2) to give colorless crystals.

reactant | diethyl (2R,3R)-epoxysuccinate | O1[C@@H](C(=O)OCC)[C@@H]1C(=O)OCC | C8H12O5
reactant | potassium hydroxide | 3.94 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (2R,3R)-epoxysuccinic acid monoethyl ester | 4.76 g, 42.7% | C(C)OC([C@H]1[C@H](C(=O)O)O1)=O | C6H8O5
